US07601868B2
3-[4-(methoxycarbonyl)phenyl]propionic acid
To a solution of methyl 4-(3-methoxy-3-oxopropyl)benzoate (5.05 g, 22.7 mmol) in methanol (120 ml) was added 1N aqueous sodium hydroxide solution (22.7 ml) at 0° C., and the mixture was stirred at room temperature for 16 hrs. After the reaction mixture was concentrated, the residue was dissolved in water, and the solution was washed with diethyl ether. To the aqueous layer was added 6N hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure, and the obtained residue was dissolved in chloroform, and insoluble materials were filtered off. The solvent was evaporated under reduced pressure, and the obtained residue was powderized with hexane to give the title compound (3.61 g) as a powder.

reactant | methyl 4-(3-methoxy-3-oxopropyl)benzoate | 22.7 mmol, 5.05 g | COC(CCC1=CC=C(C(=O)OC)C=C1)=O | C12H14O4
reactant | sodium hydroxide | 1N, 22.7 ml | [OH-].[Na+]
solvent | methanol | 120 ml | CO | CH4O
product | 3-[4-(methoxycarbonyl)phenyl]propionic acid | 3.61 g | COC(=O)C1=CC=C(C=C1)CCC(=O)O | C11H12O4
